US07705023B2
(a) 5-Bromo-3-chloro-1H-indole-2-carboxylic acid ethyl ester
A mixture of 5-bromoindole-2-carboxylic acid ethyl ester (4.00 g, 14.9 mmol), sulfurylchloride (1.8 mL, 22.4 mmol) and benzene (125 mL) was stirred at 90° C. for 2.5 h. The mixture was cooled to room temperature, NaHCO3 (aq., sat.) was added and the mixture extracted with EtOAc. The combined extracts were washed with water, brine and dried over Na2SO4. Concentration and recrystallisation (from toluene) gave the sub-title compound (3.87 g 85%).

reactant | 5-bromoindole-2-carboxylic acid ethyl ester | 14.9 mmol, 4.00 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | sulfurylchloride | 22.4 mmol, 1.8 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | benzene | 125 mL | C1=CC=CC=C1 | C6H6
product | 5-Bromo-3-chloro-1H-indole-2-carboxylic acid ethyl ester | 3.87 g, 85% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1Cl)Br | C11H9BrClNO2
